US09023840B2
Step 1: methyl 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyridine-2-carboxylate
A mixture of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (660 mg, 1.1 mmol), {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile hydrochloride (4.76 g, 10.7 mmol), methyl 5-bromopicolinate (3.00 g, 13.9 mmol), palladium acetate (240 mg, 1.1 mmol) and cesium carbonate (10 g, 32 mmol) in toluene (120 mL) was de-gassed and recharged with nitrogen for three times. The reaction mixture was stirred at 100° C. overnight. After cooling the reaction mixture was quenched with water, and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with MeOH in dichloromethylene (0-5%) to afford the desired product (3.70 g, 63.6%). LCMS (M+H)+: m/z=545.3.

reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.1 mmol, 660 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile hydrochloride | 10.7 mmol, 4.76 g | Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | methyl 5-bromopicolinate | 13.9 mmol, 3.00 g | BrC=1C=CC(=NC1)C(=O)OC | C7H6BrNO2
reactant | cesium carbonate | 32 mmol, 10 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 1.1 mmol, 240 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyridine-2-carboxylate | 3.70 g, 63.6% | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)OC)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C27H32N8O3Si
